US04618677
A mixture of 14.0 g of 1-(4-methylbenzyl)piperazine, 8.0 g of potassium hydroxide and 125 ml of dimethyl sulfoxide was stirred for 45 minutes. 11.8 g of 1-bromo-3-chloropropane were then added, and the mixture was stirred for an additional hour. Water was added, and the product was extracted with ether, and the extract was dried (sodium sulfate) and treated with ethereal hydrochloric acid to give 23.3 g (94% of theory) of 1-(4-methylbenzyl)-4-(3-chloropropyl)piperazine dihydrochloride as a white crystalline solid. (b) The procedure described in Example 1(b) was followed, using 7.7 g of thiourea, 23.0 g of 1-(4-methylbenzyl)-4-(3-chloropropyl)piperazine dihydrochloride, 6.5 g of triethylamine and 250 ml of reagent ethanol. The hydrolysis was effected with 6.0 g of sodium hydroxide in 40 ml of water. Work-up, as described above, gave 16.4 g (72% of theory) of 3-[4-(4-methylbenzyl)piperazin-1-yl] propanethiol dihydrochloride as a white crystalline solid, M.p. 273°-277° C. (dec.).

reactant | thiourea | 7.7 g | NC(=S)N | CH4N2S
reactant | 1-(4-methylbenzyl)-4-(3-chloropropyl)piperazine dihydrochloride | 23.0 g | Cl.Cl.CC1=CC=C(CN2CCN(CC2)CCCCl)C=C1
reactant | triethylamine | 6.5 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(4-methylbenzyl)piperazin-1-yl] propanethiol dihydrochloride | 16.4 g, 72% | Cl.Cl.CC1=CC=C(CN2CCN(CC2)CCCS)C=C1 | InChI=1S/C15H24N2S.2ClH/c1-14-3-5-15(6-4-14)13-17-10-8-16(9-11-17)7-2-12-18;;/h3-6,18H,2,7-13H2,1H3;2*1H
